US05817599
Synthesis of 11-(octadecylthio)undecanamide
13.2 Grams of octadecanethiol, 14.3 g of 11-bromoundecanamide, 1.7 g of potassium iodide, 20.7 g of potassium carbonate and 100 ml of N,N-dimethylacetamide were charged in a flask equipped with a stirrer, a condenser and a calcium chloride drying tube and stirred with heating at 100° C. for 5 hours. The reaction mixture was cooled to room temperature and, then, introduced into ice water, and the precipitated crystal was filtered off under reduced pressure and washed with distilled water. The crystal was recrystallized from 2-propanol to obtain 16.4 g of the desired product. m.p. 108° C.

reactant | octadecanethiol | C(CCCCCCCCCCCCCCCCC)S | C18H38S
reactant | 11-bromoundecanamide | 14.3 g | BrCCCCCCCCCCC(=O)N | C11H22BrNO
reactant | potassium iodide | 1.7 g | [I-].[K+]
reactant | potassium carbonate | 20.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylacetamide | 100 ml | CN(C(C)=O)C | C4H9NO
product | 11-(octadecylthio)undecanamide | 16.4 g | C(CCCCCCCCCCCCCCCCC)SCCCCCCCCCCC(=O)N | C29H59NOS
